US04476131
3,5-Dimethoxy-beta-Nitrostyrene
A solution of 34.5 g. (0.208 mole) 3,5-dimethoxybenzaldehyde and 12.68 g. (0.208 mole) nitromethane in 40 ml. methanol was cooled to 0° C. under a nitrogen atmosphere. To this was added dropwise a cold solution of 8.43 g. (0.211 mole) sodium hydroxide in 30 ml. water and stirring continued at 0° C. for 15 minutes after the addition was completed. The mixture was diluted with ice-water and added slowly to a solution of 40 ml. concentrated hydrochloric acid in 60 ml. water. The precipitated product (44 g.) was collected by filtration and recrystallized from methanol to give 28.6 g., M.P. 132° C. J. Org. Chem., 27, 376 (1976) reported M.P. 133.5°-134.5° C.

reactant | 3,5-dimethoxybenzaldehyde | 0.208 mole | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | nitromethane | 0.208 mole | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydroxide | 0.211 mole | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 3,5-Dimethoxy-beta-Nitrostyrene | COC=1C=C(C=C[N+](=O)[O-])C=C(C1)OC | C10H11NO4
